US07355069B2
b) Methyl 2-[(4-{3-[benzyl(hexyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate
N-benzyl-N-hexyl-3-(4-hydroxyphenyl)propanamide (183 mg, 0.54 mmol), methyl 2-(bromomethyl)benzoate (136 mg, 0.59 mmol) and potassium carbonate (112 mg, 0.81 mmol) were mixed in acetonitrile. The mixture was stirred at 66° C. overnight. The solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate. The organic phase was washed (water ×2, brine ×1), dried (Na2SO4) and evaporated. Further purification by preparative HPLC (using a gradient of CH3CN/10% CH3CN-waterphase containing 0.1M NH4OAc as eluant) gave 91 mg (yield 34%) of the desired product.

reactant | N-benzyl-N-hexyl-3-(4-hydroxyphenyl)propanamide | 0.54 mmol, 183 mg | C(C1=CC=CC=C1)N(C(CCC1=CC=C(C=C1)O)=O)CCCCCC | C22H29NO2
reactant | methyl 2-(bromomethyl)benzoate | 0.59 mmol, 136 mg | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 0.81 mmol, 112 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | Methyl 2-[(4-{3-[benzyl(hexyl)amino]-3-oxopropyl}phenoxy)methyl]benzoate | 91 mg, yield 34% | C(C1=CC=CC=C1)N(C(CCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CCCCCC | C31H37NO4
